US09255090B2
To a solution of 2-pyridinecarboxaldehyde (0.96 mL, 10 mmol, 1.0 eq.) in toluene (17 mL) was added a solution of (carbethoxyethylidene)triphenylphosphorane (6.50 g, 16.1 mmol, 1.6 eq.) in toluene (24 mL). The resulting mixture was stirred at 80° C. for 18 hours. The solvent was removed in vacuo. The residue was suspended in a minimum amount of water and DCM was added. The product was extracted with 5% HCl soln. The aq. phase was cooled down to 0° C. and was basified with solid K2CO3. The product was then extracted with DCM (2×) and the comb. org. layers were dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 45 fractions of 45 mL, Heptane 100% to Heptane+25% AcOEt). To a solution of the resulting α,β-unsaturated ester in THF (21 mL) under N2, palladium on activated carbon (10 wt. %, 33 mg) was added. The flask was carefully evacuated and refilled with H2 (3×). The black suspension was stirred at 45° C. under an H2-atmosphere for 18 hours. The black suspension was filtered through Celite. The Celite was rinsed with THF. The filtrate was concentrated in vacuo. The residue was purified by flashmaster (column: 25 g, flow: 30 mL/min, 30 fractions of 30 mL, Heptane 100% to Heptane+AcOEt 30%) to yield (±)-2-methyl-3-pyridin-2-yl-propionic acid ethyl ester as a colorless oil.

reactant | 2-pyridinecarboxaldehyde | 10 mmol, 0.96 mL, 1.0 eq. | N1=C(C=CC=C1)C=O | C6H5NO
reactant | (carbethoxyethylidene)triphenylphosphorane | 16.1 mmol, 6.50 g, 1.6 eq. | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
solvent | toluene | 17 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 24 mL | C1(=CC=CC=C1)C | C7H8
product | (±)-2-methyl-3-pyridin-2-yl-propionic acid ethyl ester | C(C)OC(C(CC1=NC=CC=C1)C)=O | C11H15NO2
